US07282499B2
A solution of ethyl 2-(4,5,6,7-tetrahydro-1-phenyl-1H-indazol-4-yl)acetate (1.40 g, 5.79 mmol) in 5 mL of THF is added over an aluminium-lithium hydride stirred suspension (300 mg, 7.9 mmol) in 20 mL of THF at room temperature. The mixture is maintained under stirring at room temperature for 18 hours and is afterwards refluxed during 1 hour. The mixture is hydrolyzed with ice and NaOH (10%), filtered through Celite and the solvent is evaporated under reduced pressure, to obtain 2-(4,5,6,7-tetrahydro-1-phenyl-1H-indazol-4-yl)ethanol (1.10 g, 4.55 mmol, 79%, oil)

reactant | ethyl 2-(4,5,6,7-tetrahydro-1-phenyl-1H-indazol-4-yl)acetate | 5.79 mmol, 1.40 g | C1(=CC=CC=C1)N1N=CC=2C(CCCC12)CC(=O)OCC | C17H20N2O2
reactant | aluminium-lithium hydride | [H-].[Li+].[Al+3].[H-].[H-].[H-]
reactant | NaOH | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(4,5,6,7-tetrahydro-1-phenyl-1H-indazol-4-yl)ethanol | 4.55 mmol, 1.10 g, 79% | C1(=CC=CC=C1)N1N=CC=2C(CCCC12)CCO | C15H18N2O
